US05852017
b) Preparation of 4,5-diacetamido-1-chloro-2-nitrobenzene
A solution of 5 g (22 mmol) of 3,4-diacetamido-1-chlorobenzene in 50 ml of concentrated sulfuric acid was cooled to 0° C., and 1.9 g (8.5 mmol) of sodium nitrate were added a little at a time, and the mixture was stirred at room temperature for 15 minutes. It was then poured into ice-water, and the crude product was filtered off with suction and washed with water. A yield of 63% of the product was obtained.

reactant | 3,4-diacetamido-1-chlorobenzene | 22 mmol, 5 g | C(C)(=O)NC=1C=C(C=CC1NC(C)=O)Cl | C10H11ClN2O2
reactant | sodium nitrate | 8.5 mmol, 1.9 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 4,5-diacetamido-1-chloro-2-nitrobenzene | yield of 63% | C(C)(=O)NC1=CC(=C(C=C1NC(C)=O)Cl)[N+](=O)[O-] | C10H10ClN3O4
